US09120728B2
1-[2-(3-fluoro-5-methylsulfonyl-phenoxy)ethyl]azetidine
1-(2-bromoethoxy)-3-fluoro-5-methylsulfonyl-benzene (0.5 g, 1.6 mmol), azetidine (0.23 ml, 3.2 mmol) and potassium carbonate (0.58 g, 4.2 mmol) was dissolved in acetonitrile (10 ml). The mixture was heated in a sealed container at 120° C. for 2 h. The reaction mixture was cooled to room temperature, CH2Cl2 (100 ml) was added, solids was filtered off and the volatiles were evaporated. The amine was converted to the fumaric acid salt and re-crystallized from methanol/diethyl ether. MS m/z (relative intensity, 70 eV) 273 (M+, 1), 94 (5), 82 (3), 71 (5), 70 (bp).

reactant | 1-(2-bromoethoxy)-3-fluoro-5-methylsulfonyl-benzene | 1.6 mmol, 0.5 g | BrCCOC1=CC(=CC(=C1)S(=O)(=O)C)F | C9H10BrFO3S
reactant | azetidine | 3.2 mmol, 0.23 ml | N1CCC1 | C3H7N
reactant | potassium carbonate | 4.2 mmol, 0.58 g | C([O-])([O-])=O.[K+].[K+]
reactant | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-[2-(3-fluoro-5-methylsulfonyl-phenoxy)ethyl]azetidine | FC=1C=C(OCCN2CCC2)C=C(C1)S(=O)(=O)C | C12H16FNO3S
